* ============================================================
* GT variant V10 -- MULTI-STAGE PDN: >2 Zout resonances (order exceeded)
*   Stresses: the Zout fitter realizes at most TWO R||L||C branches (+ Cout/ESR),
*             so its driving-point impedance can show at most ~2 resonant features.
*             A real high-current rail has a MULTI-STAGE decoupling network: an on-die
*             cap, then package/trace inductance to a ceramic mid cap, then more
*             inductance to a bulk board cap. That cap-L-cap-L-cap ladder produces
*             MULTIPLE anti-resonances on top of the loop resonance -> THREE-plus
*             distinct Zout features. The 2-branch model can capture the two dominant
*             ones and must MISS the third = the Zout-ORDER generalization finding
*             (zband residual at the un-modeled resonance; a documented floor).
*   Distinct from v7_esl (a single inductive HF tail, no resonance structure) and
*   v8_dlc (a single anti-resonance NOTCH). Realistic for Target-B-class rails.
*   Same PMOS-pass / 5T-OTA core as base; the output network is a 3-cap PDN ladder.
*   ports: vin vout  (global 0 = gnd).  Vout ~ 0.9 V.
* ============================================================
.subckt ldo_v10_3lc vin vout vref=0.6 wp=30u lp=0.3u wi=10u li=0.5u
+ wm=10u lm=0.5u wt=20u lt=0.5u wb=20u lb=0.5u ib=10u
+ r1=500k r2=1meg cout=200p resr=0.1 cg=1p
+ l1=3n cmid=2n esrm=0.15 l2=8n cbulk=10n esrb=0.1

* pass device (PMOS): drives the on-die output node vout
mp vout ng vin vin plv W={wp} L={lp}

* 5T OTA (NMOS input pair, PMOS mirror load); neg fb: fb->diode side, vref->out
m1 n1 fb    vtail 0   nlv W={wi} L={li}
m2 ng vrefn vtail 0   nlv W={wi} L={li}
m3 n1 n1    vin   vin  plv W={wm} L={lm}
m4 ng n1    vin   vin  plv W={wm} L={lm}
mtail vtail nb 0 0     nlv W={wt} L={lt}

* tail current mirror bias
mb   nb nb 0 0         nlv W={wb} L={lb}
Ibias vin nb DC {ib}

* internal reference
Vrefs vrefn 0 DC {vref}

* feedback divider (senses the on-die output node)
R1 vout fb {r1}
R2 fb 0 {r2}

* --- on-die cap (small, low ESR) ---
Cout vout ncesr {cout}
Resr ncesr 0 {resr}

* --- decoupling ladder hanging off vout: L1 -> ceramic mid cap -> L2 -> bulk cap ---
L1 vout nm1 {l1}
Cmid nm1 ncm {cmid}
Resrm ncm 0 {esrm}
L2 nm1 nm2 {l2}
Cbulk nm2 ncb {cbulk}
Resrb ncb 0 {esrb}

* gate-node cap
Cgate ng 0 {cg}
.ends ldo_v10_3lc
