* ============================================================
* GT variant V1 -- NMOS-pass / SOURCE-FOLLOWER LDO
*   Stresses the "there is always a resonance" assumption.  Source-follower pass
*   => intrinsic Zout ~ 1/gm.  A WIDE pass (high gm) makes 1/gm small, and a LOW
*   DC loop gain (Rota lowered by Rload on the OTA output) keeps Zpk/Zlf (the loop
*   gain) small => LOW and ~FLAT Zout with little peaking (low Q).  High PSRR.
*   ports: vin vout  (global 0 = gnd).  Vout ~ 0.55 V.
*   Device geometries are literals (BSIM op for this SF loop does not converge with
*   W/L as {param} expressions; cout/resr/cg stay params).
* ============================================================
.subckt ldo_v1_nmos vin vout cout=1n resr=30 cg=2p

* --- NMOS source-follower pass: very wide => high gm => low 1/gm (low flat Zout) ---
mpass vin ng vout vout nlv W=1000u L=0.5u

* --- NMOS-input 5T OTA, PMOS mirror load, output ng ; m2 gate=fb (neg fb) ---
m1 n1 vrefn vtail 0 nlv W=20u L=0.5u
m2 ng fb    vtail 0 nlv W=20u L=0.5u
m3 n1 n1 vin vin plv W=20u L=0.5u
m4 ng n1 vin vin plv W=20u L=0.5u
mtail vtail nb 0 0 nlv W=40u L=0.5u
mb nb nb 0 0 nlv W=20u L=0.5u
Ibias vin nb DC 10u

* internal reference
Vrefs vrefn 0 DC 0.50

* OTA-output load resistor: lowers Rota => lowers DC loop gain => lowers Q
Rng ng vout 50k

* feedback divider (resistive DC path -> robust op convergence)
R1 vout fb 200k
R2 fb 0 2meg

* on-chip output cap + ESR ; gate-node cap
Cout vout ncesr {cout}
Resr ncesr 0 {resr}
Cgate ng 0 {cg}
.ends ldo_v1_nmos









