* ============================================================
* Ground-truth LDO with TWO INCOMMENSURATE intrinsic spurs (multi-tone HB stress).
*   = ldo_gt + two deterministic tones at vout whose frequencies share no small
*     common base (1.0 MHz and 3.703125 MHz; bins 64 and 237, gcd=1 -> base would be
*     15.625kHz @ order 237 = effectively incommensurate). Forces the spur manifest
*     to declare TWO separate PSS/HB fundamentals rather than GCD-folding to one.
*   Both DC=0/AC=0 -> Zout/PSRR/noise/DC identical to base (pure additive overlay).
* Requires models nlv / plv at top level.
* ============================================================
.subckt ldo_v6_spur2 vin vout vref=0.6 wp=30u lp=0.3u wi=10u li=0.5u
+ wm=10u lm=0.5u wt=20u lt=0.5u wb=20u lb=0.5u ib=10u
+ r1=500k r2=1meg cout=1n resr=0.5 cg=1p
+ a1=5u f1=1.0e6 a2=4u f2=3.703125e6

mp vout ng vin vin plv W={wp} L={lp}
m1 n1 fb    vtail 0   nlv W={wi} L={li}
m2 ng vrefn vtail 0   nlv W={wi} L={li}
m3 n1 n1    vin   vin  plv W={wm} L={lm}
m4 ng n1    vin   vin  plv W={wm} L={lm}
mtail vtail nb 0 0     nlv W={wt} L={lt}
mb   nb nb 0 0         nlv W={wb} L={lb}
Ibias vin nb DC {ib}
Vrefs vrefn 0 DC {vref}
R1 vout fb {r1}
R2 fb 0 {r2}
Cout vout ncesr {cout}
Resr ncesr 0 {resr}
Cgate ng 0 {cg}

* two incommensurate intrinsic tones straight at vout (Zout-shaped)
I1 vout 0 DC 0 SIN(0 {a1} {f1})
I2 vout 0 DC 0 SIN(0 {a2} {f2})
.ends ldo_v6_spur2
