* ============================================================
* GT variant V9 -- VERY-LOW-DROPOUT, large pass device (large-signal axis)
*   Stresses: the LTI / small-signal-validity assumption. The divider sets
*             Vout ~ 1.00 V from Vin = 1.05 V => only ~50 mV of dropout headroom.
*             The PMOS pass therefore sits in deep triode at the operating point.
*             Small-signal Zout/PSRR/noise are still well-behaved (the model should
*             FIT them), but the large load steps (trans_big 1mA, trans_slew 5mA)
*             demand a current swing the device cannot deliver at 50 mV headroom ->
*             it falls into DROPOUT (the gate rails), producing a large, strongly
*             NON-LINEAR droop. The DC dropout sweep also rolls off early.
*   So the finding is NOT a fit miss -- it is that the LTI model's VALIDITY ENVELOPE
*   must correctly NARROW here (the linearity-floor detection / systest large-signal
*   gate must fire). This is the amplitude axis, orthogonal to the freq-domain parts.
*   IDENTICAL device + core as base (wp=30u); the ONLY change is the divider, which
*   pushes Vout to ~1.00 V so only ~50 mV of headroom remains -> the dropout knee
*   falls to ~1 mA, so the standard trans_big (1mA) step now hits dropout (vs base,
*   where 1mA is recoverable). This isolates the low-dropout variable from sizing.
*   ports: vin vout  (global 0 = gnd).  Vout ~ 1.00 V (dropout ~50 mV).
* ============================================================
.subckt ldo_v9_vldo vin vout vref=0.6 wp=30u lp=0.3u wi=10u li=0.5u
+ wm=10u lm=0.5u wt=20u lt=0.5u wb=20u lb=0.5u ib=10u
+ r1=400k r2=600k cout=1n resr=0.5 cg=1p

* pass device (PMOS): same width as base, but only ~50 mV of headroom -> deep triode
mp vout ng vin vin plv W={wp} L={lp}

* 5T OTA (NMOS input pair, PMOS mirror load); neg fb: fb->diode side, vref->out
m1 n1 fb    vtail 0   nlv W={wi} L={li}
m2 ng vrefn vtail 0   nlv W={wi} L={li}
m3 n1 n1    vin   vin  plv W={wm} L={lm}
m4 ng n1    vin   vin  plv W={wm} L={lm}
mtail vtail nb 0 0     nlv W={wt} L={lt}

* tail current mirror bias
mb   nb nb 0 0         nlv W={wb} L={lb}
Ibias vin nb DC {ib}

* internal reference
Vrefs vrefn 0 DC {vref}

* feedback divider: Vout = vref*(R1+R2)/R2 = 0.6*1000k/600k = 1.00 V
R1 vout fb {r1}
R2 fb 0 {r2}

* on-chip output cap + ESR
Cout vout ncesr {cout}
Resr ncesr 0 {resr}

* gate-node cap
Cgate ng 0 {cg}
.ends ldo_v9_vldo
